US09428452B2
Preparation of N-(2,4-dimethylphenyl)-2-hydroxy-N-isobutyl-4-((tetrahydro-2H-pyran-4-yl)methoxy)benzenesulfonamide (Example 26)
2-chloro-N-(2,4-dimethylphenyl)-N-isobutyl-4-((tetrahydro-2H-pyran-4-yl)methoxy)benzenesulfonamide (200 mg, 0.429 mmol), tris(dibenzylideneacetone)dipalladium(0) (3.93 mg, 4.29 μmol), 2-di-tert-butylphosphino-2′,4′,6′-triisopropylbiphenyl (1.822 mg, 4.29 μmol) and potassium hydroxide (72.2 mg, 1.287 mmol) were added to a microwave vial. The reactants where dissolved in 1,4-dioxane (1.2 mL) and water (1.2 mL). The reaction vessel was sealed and heated by microwaves (Biotage Initiator) to 150° C. for 2 hours. The reaction mixture was concentrated in vacuo, 2N NaOH was added and the reaction was diluted with ethyl acetate. The organic phase was separated and was washed with 2N HCl. The organic phase was separated, dried using a hydrophobic frit and evaporated in vacuo to give the crude product as a yellow oil. The crude was purified by mass directed autoprep (ammonium carbonate modifier). The relevant fractions were then concentrated under a stream of nitrogen to give the required product, 32 mg. LCMS [LCMS2] Rt 1.51 min, m/z (ES+) 448 (M+H).

reactant | 2-chloro-N-(2,4-dimethylphenyl)-N-isobutyl-4-((tetrahydro-2H-pyran-4-yl)methoxy)benzenesulfonamide | 0.429 mmol, 200 mg | ClC1=C(C=CC(=C1)OCC1CCOCC1)S(=O)(=O)N(CC(C)C)C1=C(C=C(C=C1)C)C | C24H32ClNO4S
reactant | 2-di-tert-butylphosphino-2′,4′,6′-triisopropylbiphenyl | 4.29 μmol, 1.822 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C(C)(C)C | C29H45P
reactant | potassium hydroxide | 1.287 mmol, 72.2 mg | [OH-].[K+]
solvent | 1,4-dioxane | 1.2 mL | O1CCOCC1 | C4H8O2
solvent | water | 1.2 mL | O | H2O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 4.29 μmol, 3.93 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(2,4-dimethylphenyl)-2-hydroxy-N-isobutyl-4-((tetrahydro-2H-pyran-4-yl)methoxy)benzenesulfonamide | CC1=C(C=CC(=C1)C)N(S(=O)(=O)C1=C(C=C(C=C1)OCC1CCOCC1)O)CC(C)C | C24H33NO5S
